US05864039
6-((3S)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)hexylamine (1.00 g) as starting compound was reacted and treated in the same manner as in Example 34 using n-propyl isocyanate (0.33 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.67 g) to give 4-amino-5-chloro-2-methoxy-N-((3S)-1-(6-(3-n-propylureido)hexyl)pyrrolidin-3-ylmethyl)benzamide.

reactant | 6-((3S)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)hexylamine | 1.00 g | C(C)(C)(C)OC(=O)NC[C@H]1CN(CC1)CCCCCCN | C16H33N3O2
reactant | n-propyl isocyanate | 0.33 ml | C(CC)N=C=O | C4H7NO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.67 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-((3S)-1-(6-(3-n-propylureido)hexyl)pyrrolidin-3-ylmethyl)benzamide | NC1=CC(=C(C(=O)NC[C@H]2CN(CC2)CCCCCCNC(=O)NCCC)C=C1Cl)OC | C23H38ClN5O3
